US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-1-(piperidin-4-yl)-1H-pyrazole-4-carboxamide hydrochloride [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=(piperidin-4-yl)-1H-pyrazole] cpd. 102
1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-1H-pyrazole-4-carboxylic acid (134 mg, 0.45 mmol) and oxalyl chloride (0.6 mmol) were stirred in DCM dry (5 mL) at room temperature overnight. Volatiles were evaporated and the residue dissolved in dry pyridine (5 mL) at 0° C. A solution of 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine (100 mg, 0.38 mmol) in dry pyridine (2 mL) was added to the cooled reaction mixture. After 1 hour, reaction was quenched with NaHCO3 sat. sol and extracted with ethyl acetate. Collected organic phases were dried over Na2SO4, filtered and evaporated to dryness. Residue was purified by column chromatography over silica gel (DCM/EtOH/NH3 5N in MeOH=1000/50/1) affording 87 mg of Boc-protected derivative which was dissolved in 2 mL of dioxane and treated with 0.4 mL of 4M HCl in dioxane. Volatiles were evaporated affording 65 mg of the title compound.

reactant | 1-[1-(tert-butoxycarbonyl)piperidin-4-yl]-1H-pyrazole-4-carboxylic acid | 0.45 mmol, 134 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C(=O)O | C14H21N3O4
reactant | oxalyl chloride | 0.6 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3,5-difluoro-benzyl)-1H-indazol-3-ylamine | 0.38 mmol, 100 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)N)C=C(C1)F | C14H11F2N3
reactant | HCl | 4M, 0.4 mL | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-1-(piperidin-4-yl)-1H-pyrazole-4-carboxamide hydrochloride | 65 mg | Cl.FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(=O)C=2C=NN(C2)C2CCNCC2)C=C(C1)F | InChI=1S/C23H22F2N6O.ClH/c24-17-8-15(9-18(25)11-17)7-14-1-2-21-20(10-14)22(30-29-21)28-23(32)16-12-27-31(13-16)19-3-5-26-6-4-19;/h1-2,8-13,19,26H,3-7H2,(H2,28,29,30,32);1H
